US08648068B2
98.2 4-[2-((S)-1-tert-Butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-[2-((S)-1-tert-butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia in methanol.

reactant | 4-[2-((S)-1-tert-butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C23H25FN4O5S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-[2-((S)-1-tert-Butoxycarbonyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C23H26FN5O4S
